US06469167B1
A suspension of 5-[4-[(carbomethoxy)methoxy]benzyl]thiazolidine-2,4-dione obtained by following a procedure described in any of Examples 23-24 (135 g, 0.46 M) and water (540 ml, 4 times w/v) was taken in a round bottom flask fitted with a mechanical stirrer. Aq. sodium hydroxide solution (37 g of NaOH in 135 ml of water) was added slowly over a period of 5-10 minutes at 20-25° C. Stirring was continued at ambient temperature for a period of 2-3 h, while monitoring the reaction by TLC. After the completion of the reaction, the pH of the reaction mixture was adjusted to 2 using conc. HCl (temp. raises to 40-45° C.) and allowed to attain room temperature. The mass was cooled to 10-15° C. and the solid thus obtained was filtered and dried at 60-70° C. under 1-2 mm Hg of vacuum to afford 5-[4-[(carboxy)methoxy]benzyl]thiazolidine-2,4-dione (121 g, Y=99%, P=99.2%).

reactant | 5-[4-[(carbomethoxy)methoxy]benzyl]thiazolidine-2,4-dione | C(=O)(OC)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C13H13NO5S
reactant | sodium hydroxide | 135 ml, 37 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | water | 540 ml | O | H2O
product | 5-[4-[(carboxy)methoxy]benzyl]thiazolidine-2,4-dione | 121 g | C(=O)(O)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C12H11NO5S
